US07087626B2
1-Amino-4-(3-methoxy-phenyl)-pyrrolidin-2-one
Concentrated hydrochloric acid (0.35 mL) is added to a suspension of 1-(benzhydrylidene-amino)-4-(3-methoxy-phenyl)-pyrrolidin-2-one, (0.8 g, 2.16 mmol) in water (17 mL) and refluxed for one hour. The mixture is concentrated in vacuo and water azeotroped away using ethanol and toluene. The residue is dissolved in methanol (5 mL) and loaded on SCX resin (5 g). The resin is washed with methanol and 2 M solution of ammonia in methanol. Appropriate fractions are concentrated to yield the title compound, 402 mg (92%), as a white crystalline solid.

reactant | hydrochloric acid | 0.35 mL | Cl | ClH
reactant | 1-(benzhydrylidene-amino)-4-(3-methoxy-phenyl)-pyrrolidin-2-one | 2.16 mmol, 0.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN1C(CC(C1)C1=CC(=CC=C1)OC)=O | C24H22N2O2
solvent | water | 17 mL | O | H2O
product | 1-Amino-4-(3-methoxy-phenyl)-pyrrolidin-2-one | NN1C(CC(C1)C1=CC(=CC=C1)OC)=O | C11H14N2O2
